US08980913B2
Step 3: (R)-Quinuclidin-3-yl((S)-(3-(2-((3-formylphenyl)amino)-2-oxoethoxy)phenyl)-(phenyl)methyl)carbamate
To a solution of (R)-quinuclidin-3-yl((S)-(3-(2-((3-(hydroxymethyl)-phenyl)amino)-2-oxoethoxy)phenyl)(phenyl)methyl)carbamate (0.35 g, 0.68 mmol) in 1,4-dioxane (25 mL) was added manganese (IV) oxide (0.58 g, 6.8 mmol) and the reaction mixture stirred at room temperature for 2 hours and then at 50° C. for 15 hours. The suspension was filtered through a pad of celite. The solvent was evaporated at reduced pressure to afford the crude material. This material was used in the next step without further purification.

reactant | (R)-quinuclidin-3-yl((S)-(3-(2-((3-(hydroxymethyl)-phenyl)amino)-2-oxoethoxy)phenyl)(phenyl)methyl)carbamate | 0.68 mmol, 0.35 g | N12C[C@@H](C(CC1)CC2)OC(N[C@@H](C2=CC=CC=C2)C2=CC(=CC=C2)OCC(=O)NC2=CC(=CC=C2)CO)=O | C30H33N3O5
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | manganese (IV) oxide | 6.8 mmol, 0.58 g | [O-2].[Mn+4].[O-2]
product | (R)-Quinuclidin-3-yl((S)-(3-(2-((3-formylphenyl)amino)-2-oxoethoxy)phenyl)-(phenyl)methyl)carbamate | N12C[C@@H](C(CC1)CC2)OC(N[C@@H](C2=CC=CC=C2)C2=CC(=CC=C2)OCC(=O)NC2=CC(=CC=C2)C=O)=O | C30H31N3O5
